2198-04-14 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2198-4-14**] 02:00 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-14**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.8
C (96.4
   HR: 112 (112 - 128) bpm
   BP: 99/47(59) {80/34(49) - 128/60(76)} mmHg
   RR: 25 (15 - 30) insp/min
   SpO2: 88%
   Height: 73 Inch
           Total In:
                                                                     73 mL
                                                                  3,602 mL
   PO:
           540 mL
   TF:
   IVF:
                                                                     73 mL
                                                                  2,771 mL
   Blood products:
   291 mL
   Total out:
                                                                      0 mL
                                                                    240 mL
   Urine:
   240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     73 mL
                                                                  3,362 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 88%
   ABG: 7.42/31/84.[**Numeric Identifier 1132**]/20/-2
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   168 K/uL
   8.9 g/dL
   86 mg/dL
   2.6 mg/dL
   20 mEq/L
   3.4 mEq/L
   20 mg/dL
   94 mEq/L
   136 mEq/L
   27.4 %
   7.3 K/uL
        [image002.jpg]
                             [**2198-4-13**]  11:34 PM
                             [**2198-4-14**]  04:52 AM
                             [**2198-4-14**]  05:41 AM
   WBC
   7.4
   7.3
   Hct
   29.1
   28
   27.4
   Plt
   168
   168
   Cr
   2.6
   TCO2
   21
   Glucose
   86
   Other labs: PT / PTT / INR:48.6/47.7/5.5, CK / CKMB / Troponin-T:124//,
   ALT / AST:1180/3353, Alk Phos / T Bili:131/7.8, Lactic Acid:6.0 mmol/L,
   LDH:2532 IU/L, Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-13**] 10:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-04-15 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2198-4-14**] 09:30 AM
 BLOOD CULTURED - At [**2198-4-14**] 08:16 PM
 BLOOD CULTURED - At [**2198-4-15**] 02:00 AM
   - Had BRBPR without any stool when attempting to have a bowel movement
   - New O2 requirement, s/p fluid resuscitation for tachycardia and low
   BP; poor urine output --> improved UOP
   - Given 2u FFP
   - LIVER: No FFP even if bleeding! If bleeding, call GI. Cont NAC until
   Tylenol negative and INR <1.5
   - RUQ u/s: Hepatic/portal veins demonstrate appropriate waveforms.
   Limited hepatic arterial waveforms also appear normal. Thickened
   gallbladder may relate to chronic liver disease or hepatitis given it
   is non-distended and there are not other findings of cholecystitis, but
   apparently patient tender here.
   - Transplant surgery aware, call them if pt needs transplant
   - Bld cx: GNR and GPCs --> started Zosyn/Vanco
   - HIV ab: NEG
   - Tylenol 20 --> 11.3 --> 7.2 --> 5.2
   - Tbili rising
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2198-4-14**] 03:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-15**] 01:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea
   Integumentary (skin): Jaundice
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Delirious
   Flowsheet Data as of  [**2198-4-15**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 93 (86 - 128) bpm
   BP: 98/43(56) {96/43(56) - 119/71(81)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  5,229 mL
                                                                    583 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  4,138 mL
                                                                    583 mL
   Blood products:
                                                                    551 mL
   Total out:
                                                                  1,190 mL
                                                                    320 mL
   Urine:
                                                                  1,190 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,039 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.48///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: RUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   151 K/uL
   9.6 g/dL
   129 mg/dL
   1.8 mg/dL
   27 mEq/L
   2.8 mEq/L
   24 mg/dL
   97 mEq/L
   133 mEq/L
   27.7 %
   4.2 K/uL
        [image002.jpg]
                             [**2198-4-13**]  11:34 PM
                             [**2198-4-14**]  04:52 AM
                             [**2198-4-14**]  05:41 AM
                             [**2198-4-14**]  12:11 PM
                             [**2198-4-14**]  08:00 PM
                             [**2198-4-15**]  02:00 AM
   WBC
   7.4
   7.3
   6.0
   4.1
   4.2
   Hct
   29.1
   28
   27.4
   25.8
   26.9
   27.7
   Plt
   168
   168
   147
   142
   151
   Cr
   2.6
   2.7
   2.3
   1.9
   1.8
   TCO2
   21
   Glucose
   86
   [**Telephone/Fax (3) 4803**]29
   Other labs: PT / PTT / INR:27.5/41.9/2.8, CK / CKMB / Troponin-T:124//,
   ALT / AST:[**Telephone/Fax (1) 4804**], Alk Phos / T Bili:159/9.2, Differential-Neuts:68.0
   %, Band:0.0 %, Lymph:14.0 %, Mono:10.0 %, Eos:5.0 %, Lactic Acid:2.5
   mmol/L, LDH:2532 IU/L, Ca++:8.0 mg/dL, Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Imaging: CXR: Increased interstitial markings that may represent
   edema.
   Streaky density at the lung bases most likely reflecting subsegmental
   atelectasis.
   RUQ: RUQ u/s: Hepatic/portal veins demonstrate appropriate waveforms.
   Limited hepatic arterial waveforms also appear normal. Thickened
   gallbladder may relate to chronic liver disease or hepatitis given it
   is non-distended and there are not other findings of cholecystitis, but
   apparently patient tender here.
   Microbiology: Blood cx ([**4-13**]): GNR
   Blood cx ([**4-13**]): GPC
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   44 yo M with h/o fibular fracture, admitted with hepatic / renal
   failure in the setting of excessive acetaminophen use.
   .
   # Hepatic Failure: Likely secondary to Tylenol overdose, but other
   considerations include viral infection (h/o tattoos), ischemia,
   auto-immune or other toxin exposure.  INR > 9, TBili > 9 on
   presentation.
   - LFTs / coag monitoring Q6H
   - Check Tylenol level; plan for NAC until Tylenol level negative, INR
   <1.5
   - Hepatitis panel, CMV, EBV, HSV: P
   - HIV: negative
   - Alpha-1-antitrpsin, IgG, Ceruloplasmin: P
   - Iron studies
   - SW consult for patient coping and insurance issues if transplanted
   - VitK 10mg IV x 1 given yesterday; no further FFP given
   - RUQ u/s with flow: coarsened liver, nl vascular waveforms, thickened
   GB wall may be [**3-5**] hepatitis or chronic liver disease
   - Utox: neg
   .
   # Renal Failure: Likely secondary to Tylenol overdose in combination
   with prerenal etiology given poor po intake and dry on physical exam.
   Also could have developed ATN if low BP in the last several days.
   - Judicious hydration
   - UOP has remained good
   - Renal following, appreciate recs
   .
   # Tachycardia: Likely secondary to poor po intake, hepatic failure and
   anxiety.
   - Improved with hydration
   .
   # Pain control: Given hepatic / renal failure, will need to be careful
   with essentially every medication.
   - Monitor, judicious use of medications
   .
   # H/o Fibular fracture: Does not appear infected at this point.
   - Monitor
   - Plain films
   - ortho consult
   .
   FEN: IVF x 2L / replete PRN / Regular
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-14**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ? floor later today

2198-04-16 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hepatic failure
   24 Hour Events:
   - declining mental status.  A&Ox0.  Though patient denies drinking,
   mother states that he has a history of alcohol abuse and believes that
   he would be likely to lie about his alcohol consumption.  She also
   notes that he has had some recent emotional stressors, such as the
   break up of a 10year relationship.  Pt increasingly tremulous and
   irritable, now in window for alcohol withdrawal.
   - Added ceftriaxone for CNX coverage, could not tap [**3-5**] coagulopathy
   - Pan-scanned looking for source of bacteremia
   - renal signed-off
   - toxicology wants NAC on until at least tomorrow am.  INR still
   elevated, though tylenol level 0
   - INR 2.7 --> 2.4 --> 2.3
   - CT Head - Prelim - No intracranial hemorrhage or edema. Near complete
   opacification of mastoid
   air cells on the right, and partial opacification of the left mastoid
   air cells. Minimal mucosal thickening of the right maxillary sinus with
   aerosolized secretions. Please correlate with signs and symptoms of
   sinusitis.
   - Ortho consult - Plain films and CT leg, need to get Op notes from OSH
   to learn more about the surgery and wash-out
   - CT Leg - Examination limited by lack of intravenous contrast for this
   indication, but multiple fractures with periosteal reaction which can
   be attributed to healing. No hardware loosening or frank bone
   destruction. Small amount of fluid medial to the talus which could be
   attributed to post-operative change.
   - Plain films- Status post ORIF. Periosteal reaction. Soft tissue
   swelling.
   - Started on Ativan CIWA scale
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2198-4-14**] 03:30 PM
   Vancomycin - [**2198-4-15**] 04:45 PM
   Ceftriaxone - [**2198-4-15**] 11:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-16**] 03:16 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-15**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: tachypnea
   Musculoskeletal: Joint pain
   Integumentary (skin): Jaundice
   Heme / Lymph: Coagulopathy
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2198-4-16**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.9
   HR: 127 (88 - 135) bpm
   BP: 129/65(77) {87/46(54) - 156/117(125)} mmHg
   RR: 19 (12 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  3,107 mL
                                                                  1,263 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,707 mL
                                                                  1,263 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                  1,170 mL
   Urine:
                                                                  1,170 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,937 mL
                                                                     93 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.56/29/84.[**Numeric Identifier 1132**]/27/4
   Physical Examination
   General Appearance: Well nourished, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Oriented (to): self, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   100 K/uL
   8.8 g/dL
   106 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   17 mg/dL
   102 mEq/L
   137 mEq/L
   26.7 %
   3.2 K/uL
        [image002.jpg]
                             [**2198-4-14**]  04:52 AM
                             [**2198-4-14**]  05:41 AM
                             [**2198-4-14**]  12:11 PM
                             [**2198-4-14**]  08:00 PM
                             [**2198-4-15**]  02:00 AM
                             [**2198-4-15**]  07:46 AM
                             [**2198-4-15**]  02:48 PM
                             [**2198-4-15**]  10:08 PM
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
   WBC
   7.3
   6.0
   4.1
   4.2
   3.2
   3.2
   Hct
   28
   27.4
   25.8
   26.9
   27.7
   26.6
   26.7
   Plt
   168
   147
   142
   151
   118
   100
   Cr
   2.7
   2.3
   1.9
   1.8
   1.1
   0.8
   TCO2
   21
   31
   27
   Glucose
   [**Telephone/Fax (3) 4803**]29
   143
   110
   106
   Other labs: PT / PTT / INR:24.5/42.0/2.4, CK / CKMB / Troponin-T:29//,
   ALT / AST:475/404, Alk Phos / T Bili:158/9.6, Amylase / Lipase:297/,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:14.0 %, Mono:10.0 %,
   Eos:5.0 %, Lactic Acid:2.9 mmol/L, Albumin:2.4 g/dL, LDH:353 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   44 yo M with h/o fibular fracture, admitted with hepatic / renal
   failure in the setting of excessive acetaminophen use.
   .
   # Hepatic Failure: Likely secondary to Tylenol overdose, but other
   considerations include viral infection (h/o tattoos), ischemia,
   auto-immune or other toxin exposure.  INR > 9, TBili > 9 on
   presentation.
   - LFTs / coag monitoring Q6H
   - Check Tylenol level; plan for NAC until Tylenol level negative, INR
   <1.5
   - Hepatitis panel, CMV, EBV, HSV: P
   - HIV: negative
   - Alpha-1-antitrpsin, IgG, Ceruloplasmin: P
   - Iron studies
   - SW consult for patient coping and insurance issues if transplanted
   - VitK 10mg IV x 1 given yesterday; no further FFP given
   - RUQ u/s with flow: coarsened liver, nl vascular waveforms, thickened
   GB wall may be [**3-5**] hepatitis or chronic liver disease
   - Utox: neg
   .
   # Polymicrobial Sepsis:  Patient with both GPC and GNR in the blood,
   unclear source.  Pan-scan [**4-16**] without obvious source but with
   colitis.  Started on Vanc/Zosyn.  Ceftriaxone added for ? CNS
   involvement.
   - Follow-up cultures
   - daily blood cultures
   - Final reads CT scan
   - Consider LP
   .
   # Altered mental status: [**4-15**] noted to have increasing agitation, anger
   and hostility.  Also with tachycardia / hypertension.  Per discussion
   with his mother, patient has been drinking heavily lately and has had
   drinking problems in the past.  Concern for withdrawal vs CNS
   infection.  Ceftiaxone added at meningitic dosing.
   - Continue Ceftriaxone, consider Acyclovir
   -  Consider LP
   .
   # Renal Failure: Likely secondary to Tylenol overdose in combination
   with prerenal etiology given poor po intake and dry on physical exam.
   Also could have developed ATN if low BP in the last several days.
   - Judicious hydration
   - UOP has remained good
   - Renal following, appreciate recs
   .
   # Tachycardia: Likely secondary to poor po intake, hepatic failure and
   anxiety.
   - Improved with hydration
   .
   # Pain control: Given hepatic / renal failure, will need to be careful
   with essentially every medication.
   - Monitor, judicious use of medications
   .
   # H/o Fibular fracture: Does not appear infected at this point.
   - Monitor
   - Plain films
   - ortho consult
   .
   FEN: IVF x 2L / replete PRN / Regular
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 07:45 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-04-16 10:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 y/o m with L fibular fx s/p plating c/b tylenol OD for pain p/w ALF
   and tx from [**State 254**] for further w/u. Decreased LFTs this weekend here.
   Continued on NAC. Yesterday became more belligerent. Concern for EtOH
   w/d. Started on CIWA scale. More obtunded this am. CT head unremarkable
   yesterday, except for sinusitis. Grew GPC and GNR from Bcx yesterday
   and started vanco/zosyn. Ct CAP done showing ? GB wall edema, bilat
   GGO, and ascites. Ortho looked at leg and didn't think it was infected.
   CT leg showed no obvious infection.
   24 Hour Events:
 BLOOD CULTURED - At [**2198-4-15**] 10:00 PM
 CALLED OUT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2198-4-14**] 03:30 PM
   Vancomycin - [**2198-4-15**] 04:45 PM
   Ceftriaxone - [**2198-4-15**] 11:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-16**] 03:16 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-15**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-16**] 10:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 113 (88 - 135) bpm
   BP: 113/55(97) {87/46(54) - 156/117(125)} mmHg
   RR: 18 (12 - 34) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  3,113 mL
                                                                  2,477 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                  2,713 mL
                                                                  2,477 mL
   Blood products:
   Total out:
                                                                  1,170 mL
                                                                  1,390 mL
   Urine:
                                                                  1,170 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,943 mL
                                                                  1,087 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.56/29/84.[**Numeric Identifier 1132**]/27/4
   PaO2 / FiO2: 4L
   Physical Examination
   General Appearance: Well nourished, Diaphoretic
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   100 K/uL
   106 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.5 mEq/L
   17 mg/dL
   102 mEq/L
   137 mEq/L
   26.7 %
   3.2 K/uL
        [image002.jpg]
                             [**2198-4-14**]  04:52 AM
                             [**2198-4-14**]  05:41 AM
                             [**2198-4-14**]  12:11 PM
                             [**2198-4-14**]  08:00 PM
                             [**2198-4-15**]  02:00 AM
                             [**2198-4-15**]  07:46 AM
                             [**2198-4-15**]  02:48 PM
                             [**2198-4-15**]  10:08 PM
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
   WBC
   7.3
   6.0
   4.1
   4.2
   3.2
   3.2
   Hct
   28
   27.4
   25.8
   26.9
   27.7
   26.6
   26.7
   Plt
   168
   147
   142
   151
   118
   100
   Cr
   2.7
   2.3
   1.9
   1.8
   1.1
   0.8
   TCO2
   21
   31
   27
   Glucose
   [**Telephone/Fax (3) 4803**]29
   143
   110
   106
   Other labs: PT / PTT / INR:24.5/42.0/2.4, CK / CKMB / Troponin-T:29//,
   ALT / AST:475/404, Alk Phos / T Bili:158/9.6, Amylase / Lipase:297/,
   Differential-Neuts:68.0 %, Band:0.0 %, Lymph:14.0 %, Mono:10.0 %,
   Eos:5.0 %, Lactic Acid:2.9 mmol/L, Albumin:2.4 g/dL, LDH:353 IU/L,
   Ca++:7.5 mg/dL, Mg++:1.6 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   1. AMS: Benzo intoxication vs. Cerebral Edema vs. Meningitis vs.
   Seizure
   -head CT
   -EEG to r/o seizure
   -consider clonidine and haldol
   -intubate if MS not improving
   2. ID: Sepsis, GNR and GPC bacteremia, unclear source, [**Name (NI) **] wall
   thickening, CT leg unremarkable, colitis
   -f/u final read on CT leg and abd
   -vanco/meropenem/flagyl
   3. FHF:
   -cont. NAC
   -LFTs improving but INR unchanged
   4. Pancytopenia: Leukopenia, Thrombocytopenia
   -suspenct [**3-5**] sepsis
   -cont. to trend and tx sepsis
   5. FEN: replete phos
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 07:45 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   Pt seen and examined on rounds, agree with Dr. [**First Name (STitle) 1068**]
s note as outlined
   above. 44 yo male with acute liver failure in the setting of
   inadvertent Tylenol over-ingestion s/p left fibular fracture repair.
   Though LFT
s and synthetic function have been trending down, pt has
   become rapidly more lethargic and obtunded, has new onset pancytopenia,
   and is growing GPC
s and GNR
s out of blood. Possibly history of heavy
   alcohol drinking. Has sepsis, unclear source (GI vs. leg with pt
   recent fibula fx repair). With worsening neuro exam, need to be
   concerned for cerebral edema. Plan repeat head CT, f/u BD culture
   [**Last Name (un) 206**]/ID. With his marginal MS, he may need to be intubated for airway
   protection.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-16**] 14:37 ------

2198-04-17 11:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EEG showed no clear seizure but some abnormality in R frontal area.
   Surveillance cx sent. Noted to have downward gaze, not really
   responsive to ativan. Bcx growing citrobacter and strep anginosis. Head
   CT unremarkable. Intubated yesterday for inability to protect airway.
   LP was negative so far.
 EEG - At [**2198-4-16**] 02:18 PM
 INVASIVE VENTILATION - START [**2198-4-16**] 05:30 PM
 LUMBAR PUNCTURE - At [**2198-4-16**] 06:00 PM
 SPUTUM CULTURE - At [**2198-4-17**] 12:45 AM
 STOOL CULTURE - At [**2198-4-17**] 12:45 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2198-4-14**] 03:30 PM
   Ceftriaxone - [**2198-4-15**] 11:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-16**] 03:16 AM
   Vancomycin - [**2198-4-17**] 12:00 AM
   Metronidazole - [**2198-4-17**] 12:00 AM
   Meropenem - [**2198-4-17**] 04:13 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-17**] 12:41 AM
   Pantoprazole (Protonix) - [**2198-4-17**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-17**] 11:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 100 (88 - 119) bpm
   BP: 107/56(69) {96/52(63) - 145/89(106)} mmHg
   RR: 18 (17 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  4,298 mL
                                                                  1,739 mL
   PO:
             TF:
                                                                     15 mL
                                                                     68 mL
   IVF:
                                                                  4,283 mL
                                                                  1,551 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                    670 mL
   Urine:
                                                                  3,335 mL
                                                                    670 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    963 mL
                                                                  1,071 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 580 (580 - 640) mL
   PS : 5 cmH2O
   RR (Set): 580
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 98%
   ABG: ///29/
   Ve: 11.2 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   89 K/uL
   102 mg/dL
   0.6 mg/dL
   29 mEq/L
   2.8 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   26.9 %
   7.9 K/uL
        [image002.jpg]
                             [**2198-4-14**]  12:11 PM
                             [**2198-4-14**]  08:00 PM
                             [**2198-4-15**]  02:00 AM
                             [**2198-4-15**]  07:46 AM
                             [**2198-4-15**]  02:48 PM
                             [**2198-4-15**]  10:08 PM
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
   WBC
   6.0
   4.1
   4.2
   3.2
   3.2
   7.9
   Hct
   25.8
   26.9
   27.7
   26.6
   26.7
   26.9
   Plt
   147
   142
   151
   118
   100
   89
   Cr
   2.3
   1.9
   1.8
   1.1
   0.8
   0.7
   0.6
   TCO2
   31
   27
   Glucose
   117
   125
   129
   143
   110
   106
   118
   102
   Other labs: PT / PTT / INR:22.3/39.2/2.1, CK / CKMB / Troponin-T:32//,
   ALT / AST:352/174, Alk Phos / T Bili:170/13.4, Amylase / Lipase:297/,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:10.0 %, Mono:11.0 %,
   Eos:1.0 %, Fibrinogen:293 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.7
   g/dL, LDH:428 IU/L, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.3 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Plan:
   1. Hepatic failure: Hep panel negative, suspect [**3-5**] tylenol, coags have
   plateau'd after FFP
   -f/u HIDA scan, will need repeat images in 2h
   -cont. NAC
   2. Bacteremia: citrobacter and strep anginosis
   -dental consult
   -switch to NG to OG
   -vanc/meropenem/flagyl/add micafungin per ID
   -eval head CT
   3. Thrombocytopenia: Could be liver failure, sepsis
   -f/u haptoglobin
   -check smear
   4. AMS: Hepatic enceph vs. delirium vs. seizure
   -lactulose, check NH3
   -consult neuro
   -hold propofol p HIDA scan for neuro exam
   -cont. EEG
   5. ortho:
   -discuss if we need a CT with contrast
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this patient and agree with the pertinents of Dr.
   [**First Name (STitle) 1068**]
s note as outlined above. 44 yo male admitted with hepatic
   failure from Tylenol toxicity in the setting of increased pain s/p
   fibular fracture repair. Though the first few days of his
   hospitalization were characterized by improved liver parameters and
   normal mental status, he became progressive obtunded and was intubated
   for airway protection yesterday. Also with polymicrobial sepsis that is
   probably originating from the GI tract (translocation vs biliary)
   On exam, he remains unresponsive, has icteric sclerae with dilated
   pupils (though reactive to light) with marked left gaze preference.
   Lungs somewhat coarse BS, CV: RRR without wheezes or rales, Abd:
   distended but soft. Ext: bilateral boots with L>R edema and well healed
   incision scars.
   He remains critically ill with acute liver failure, acute respiratory
   failure, polymicrobial sepsis, and altered mentation. The latter could
   be from liver failure/sepsis but gaze preference concerning for seizure
   activity despite absence of overt seizure activity by EEG yesterday. LP
   and Repeat head CT yesterday negative, Neuro consulted and has
   recommended initiation of Keppra with 24 EEG monitoring starting
   tomorrow. Remains on Vanco/merepenem/flagyl/mycofungin- HIDA scan today
   and will also re-image LLE with IV contrast.
   Pt is critically ill. Total time spent on pt: 55 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-17**] 17:11 ------

2198-04-17 17:43:00 Physician Resident Progress Note
Chief Complaint: Liver Failure [**3-5**] Tylenol Overdose
   24 Hour Events:
 EEG - At [**2198-4-16**] 02:18 PM
 INVASIVE VENTILATION - START [**2198-4-16**] 05:30 PM
 LUMBAR PUNCTURE - At [**2198-4-16**] 06:00 PM
 SPUTUM CULTURE - At [**2198-4-17**] 12:45 AM
 STOOL CULTURE - At [**2198-4-17**] 12:45 AM
   - Intubated with Succ/Etomidate
   - Liver recs: continue NAC, obtain ID consult & consider LP, continue
   antiobiotics, CIWA scale, check C.diff, lactulose via NG tube, continue
   NAC
   - Toxicology: Continue NAC
   - General Surgery: plan for HIDA scan to r/o cholecystitis
   - ID recommendations
   1. We recommend discontinuing Flagyl and keeping him broadly
   covered with Vancomycin and Meropenem until second GNR
   identified. We may be able to narrow to Vanco, Ceftriaxone and
   Flagyl in the future.
   2. Would further investigate the liver/gallbladder with HIDA scan
   as gallbladder thickening seen on ultrasound and could be source
   of bacteremia
   3. Daily blood cultures until documented clearing
   4. Lumbar puncture- can send CSF for cell count, gram stain, culture,
   protein, glucose, HSV PCR, and save tube 4 for further studies.
   5. Await OSH records regarding left fibular hardware infection and
   therapy.
   6. Please send stool for C. difficile x 3
   .
   - EEG: Preliminary read with diffuse slowing; also area of potential
   seizure focus (though not seizing on EEG) in R frontal; recommend
   longer EEG (ordered)
   - LP performed: Nml glucose, protein, negative WBC; got 2units FFP
   - Echo ordered to evaluate for vegetations, not yet done
   - Downward gaze at 1am, given 2mg IV ativan for ?seizure
   - Viral panel / HIV / autoimmune studies --> Negative
   - Records requested from OSH
   - GNR in blood --> CITROBACTER FREUNDII
   - GCP in blood --> STREPTOCOCCUS ANGINOSUS (MILLERI)
   .
   - CT head:
   1. Unchanged mastoid air cell opacification. Mild paranasal sinus
   mucosal thickening.
   2. No acute intracranial process.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-4-15**] 11:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-16**] 03:16 AM
   Metronidazole - [**2198-4-17**] 12:00 AM
   Vancomycin - [**2198-4-17**] 12:18 PM
   Meropenem - [**2198-4-17**] 02:00 PM
   Micafungin - [**2198-4-17**] 03:30 PM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-17**] 12:41 AM
   Pantoprazole (Protonix) - [**2198-4-17**] 06:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-17**] 05:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 116 (85 - 119) bpm
   BP: 118/50(67) {96/50(63) - 141/80(91)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  4,298 mL
                                                                  2,662 mL
   PO:
             TF:
                                                                     15 mL
                                                                     68 mL
   IVF:
                                                                  4,283 mL
                                                                  2,415 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                  1,520 mL
   Urine:
                                                                  3,335 mL
                                                                  1,520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    963 mL
                                                                  1,142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 620 (530 - 640) mL
   PS : 5 cmH2O
   RR (Set): 580
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   Compliance: 66.7 cmH2O/mL
   SpO2: 98%
   ABG: ///24/
   Ve: 12.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: downward gaze, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   68 K/uL
   9.3 g/dL
   108 mg/dL
   0.6 mg/dL
   24 mEq/L
   2.5 mEq/L
   12 mg/dL
   105 mEq/L
   138 mEq/L
   27.8 %
   6.7 K/uL
        [image002.jpg]
                             [**2198-4-14**]  08:00 PM
                             [**2198-4-15**]  02:00 AM
                             [**2198-4-15**]  07:46 AM
                             [**2198-4-15**]  02:48 PM
                             [**2198-4-15**]  10:08 PM
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
                             [**2198-4-17**]  02:57 PM
   WBC
   4.1
   4.2
   3.2
   3.2
   7.9
   6.7
   Hct
   26.9
   27.7
   26.6
   26.7
   26.9
   27.8
   Plt
   142
   151
   118
   100
   89
   68
   Cr
   1.9
   1.8
   1.1
   0.8
   0.7
   0.6
   0.6
   TCO2
   31
   27
   Glucose
   125
   129
   143
   110
   106
   118
   102
   108
   Other labs: PT / PTT / INR:23.9/42.0/2.3, CK / CKMB / Troponin-T:32//,
   ALT / AST:281/113, Alk Phos / T Bili:167/12.8, Amylase / Lipase:297/,
   Differential-Neuts:74.0 %, Band:0.0 %, Lymph:10.0 %, Mono:11.0 %,
   Eos:1.0 %, Fibrinogen:293 mg/dL, Lactic Acid:2.9 mmol/L, Albumin:2.5
   g/dL, LDH:311 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   44 yo M with h/o fibular fracture, admitted with hepatic / renal
   failure in the setting of excessive acetaminophen use.
   .
   # Hepatic Failure: Likely secondary to Tylenol overdose, but other
   considerations include viral infection (h/o tattoos), ischemia,
   auto-immune or other toxin exposure.  INR > 9, TBili > 9 on
   presentation.
   - LFTs / coag monitoring
   - plan for NAC until Tylenol level negative, INR <1.5
   - Hepatitis panel, EBV - Neg
   -  CMV, HSV: P
   - HIV: negative
   - Alpha-1-antitrpsin, IgG, Ceruloplasmin: P
   - Iron studies
   - SW consult for patient coping and insurance issues if transplanted
   - VitK 10mg IV x 1 given yesterday; no further FFP given
   - RUQ u/s with flow: coarsened liver, nl vascular waveforms, thickened
   GB wall may be [**3-5**] hepatitis or chronic liver disease
   - Utox: neg
   .
   # Polymicrobial Sepsis:  Patient with both GPC and GNR in the blood,
   unclear source.  Pan-scan [**4-16**] without obvious source but with
   colitis.  Ceftriaxone added for ? CNS involvement.  Started on
   Vanc/Zosyn, now on Vanc, [**Last Name (un) 1540**], Flagyl.  GRC speciated to strep
   anginosus which is typically an oral bacteria, GNR citrobacter.
   - Follow-up cultures
   - daily blood cultures
   - Final reads CT scan
   -  LP - normal glucose and protein, no WBCs, f/u CSF cx
   - OSH Op notes unrevealing
   - daily blood cultures for surveillance
   - Hida scan today
   - add micafungin per ID
   - dental consult - teeth possible source of strep anginosus
   - change NG to an OG [**3-5**] sinus infection
   .
   # Altered mental status: [**4-15**] noted to have increasing agitation, anger
   and hostility.  Also with tachycardia / hypertension.  Per discussion
   with his mother, patient has been drinking heavily lately and has had
   drinking problems in the past.  Concern for withdrawal vs CNS
   infection.  Ceftiaxone added at meningitic dosing.
   -  LP unrevealing, follow-up cultures
   - full EEG for evaluation of possible seizure focus
   - neuro consult
   - continue lactulose
   .
   # Renal Failure: Likely secondary to Tylenol overdose in combination
   with prerenal etiology given poor po intake and dry on physical exam.
   Also could have developed ATN if low BP in the last several days.
   Resolved.
   .
   # Tachycardia: Likely secondary to poor po intake, hepatic failure and
   anxiety and now polymicrobial sepsis
   .
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.
   .
   FEN: replete PRN / TFs after HIDA scan/ NGT --> OGT/ nutrition c/s
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2198-04-18 07:19:00 Physician Resident Progress Note
Chief Complaint: Liver Failure
   24 Hour Events:
 MULTI LUMEN - START [**2198-4-17**] 10:37 PM
   - HIDA: 1. Evidence for severe hepatocellular dysfunction.
   2. Failure of normal gallbladder demonstration. Although this may be
   secondary to cholecystitis, the sensitivity of the study is reduced in
   the presence of severe hepatocellular dysfunction. In addition, a
   prolonged fasting period may also contribute to the appearances.
   - Transplant recs: will follow
   - R IJ cvl placed
   - Micafungin added
   - Dental c/s: No teeth to extract, get panorex once extubated
   - Neuro c/s: start Keppra 1000 [**Hospital1 **], if gaze deviation increase Propofol
   gtt, plan for EEG continuous Wed
   - Ammonia: 68
   - CT leg with contrast performed: Marked soft tissue edema around the
   ankle and extending into the dorsal and plantar surface of the foot. No
   focal fluid collections or abscess. Left distal tibial fracture, S/P
   ORIF and distal fibular fracture is noted.
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-4-15**] 11:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-16**] 03:16 AM
   Metronidazole - [**2198-4-17**] 12:00 AM
   Vancomycin - [**2198-4-17**] 12:18 PM
   Micafungin - [**2198-4-17**] 03:30 PM
   Meropenem - [**2198-4-18**] 03:58 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-17**] 07:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.6
C (97.9
   HR: 80 (78 - 139) bpm
   BP: 106/59(69) {98/48(60) - 136/77(87)} mmHg
   RR: 13 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 7 (7 - 9)mmHg
   Total In:
                                                                  5,583 mL
                                                                  1,138 mL
   PO:
   TF:
                                                                     68 mL
   IVF:
                                                                  4,719 mL
                                                                  1,078 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  2,550 mL
                                                                    360 mL
   Urine:
                                                                  1,850 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,033 mL
                                                                    778 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 620 (510 - 620) mL
   PS : 5 cmH2O
   RR (Set): 580
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.47/35/77/26/1
   Ve: 9 L/min
   PaO2 / FiO2: 193
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   66 K/uL
   8.2 g/dL
   98 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   11 mg/dL
   108 mEq/L
   139 mEq/L
   25.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2198-4-15**]  07:46 AM
                             [**2198-4-15**]  02:48 PM
                             [**2198-4-15**]  10:08 PM
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
   WBC
   3.2
   3.2
   7.9
   6.7
   5.3
   Hct
   26.6
   26.7
   26.9
   27.8
   25.6
   Plt
   118
   100
   89
   68
   66
   Cr
   1.1
   0.8
   0.7
   0.6
   0.6
   0.6
   TCO2
   31
   27
   26
   Glucose
   143
   110
   106
   118
   102
   108
   98
   Other labs: PT / PTT / INR:23.0/57.5/2.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:210/74, Alk Phos / T Bili:150/12.2, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:311 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   44 yo M with h/o fibular fracture, admitted with hepatic / renal
   failure in the setting of excessive acetaminophen use.
   # Hepatic Failure: Likely secondary to Tylenol overdose, but other
   considerations include viral infection (h/o tattoos), ischemia,
   auto-immune or other toxin exposure.  INR > 9, TBili > 9 on
   presentation.
   - LFTs / coag monitoring
   - plan for NAC until Tylenol level negative, INR <1.5
   - Hepatitis panel, EBV - Neg
   -  CMV, HSV: P
   - HIV: negative
   - Alpha-1-antitrpsin ELEVATED, IgG, Ceruloplasmin: P
   - Iron studies
   - SW consult for patient coping and insurance issues if transplanted
   - VitK 10mg IV x 1 given yesterday; no further FFP given
   - RUQ u/s with flow: coarsened liver, nl vascular waveforms, thickened
   GB wall may be [**3-5**] hepatitis or chronic liver disease
   - Utox: neg
   - Transplant surgery following closely
   .
   # Polymicrobial Sepsis:  Patient with both GPC and GNR in the blood,
   unclear source.  Pan-scan [**4-16**] without obvious source but with
   colitis.  Started on Vanc/Zosyn, now on Vanc, [**Last Name (un) 1540**], Flagyl.  GRC
   speciated to strep anginosus which is typically an oral bacteria, GNR
   citrobacter.
   - Follow-up cultures
   - daily blood cultures
   - Final reads CT scan
   -  LP - normal glucose and protein, no WBCs, f/u CSF cx
   - OSH Op notes unrevealing
   - daily blood cultures for surveillance
   - Hida scan unrevealing, surgery following
   - add micafungin per ID
   - dental consult - teeth possible source of strep anginosus
   - changed NG to an OG [**3-5**] sinus infection
   .
   # Altered mental status: [**4-15**] noted to have increasing agitation, anger
   and hostility.  Also with tachycardia / hypertension.  Per discussion
   with his mother, patient has been drinking heavily lately and has had
   drinking problems in the past.  Concern for withdrawal vs CNS
   infection.
   -  LP unrevealing, follow-up cultures
   - full EEG for evaluation of possible seizure focus
   - neuro consult: started Keppra, awaiting EEG
   - continue lactulose
   - propofol ONLY for sedation (no benzos or narcs)
   .
   # Renal Failure: Likely secondary to Tylenol overdose in combination
   with prerenal etiology given poor po intake and dry on physical exam.
   Also could have developed ATN if low BP in the last several days.
   Resolved.
   .
   # Tachycardia: Likely secondary to poor po intake, hepatic failure and
   anxiety and now polymicrobial sepsis
   - Fluid resuscitation as needed
   .
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.
   - f/u contrast scan of the leg
   .
   FEN: replete PRN / TFs after HIDA scan/ NGT --> OGT/ nutrition c/s
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 05:22 PM
   Multi Lumen - [**2198-4-17**] 10:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2198-04-18 10:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Had RIJ placed for access. Dental consult saw no gross abscess, will
   eventually need panorex. Neuro rec cont. propofol for concern of
   seizure. CT leg showed no abscesses. Having BRB in stool likely from
   hemorrhoids.
 MULTI LUMEN - START [**2198-4-17**] 10:37 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2198-4-15**] 11:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2198-4-16**] 03:16 AM
   Vancomycin - [**2198-4-17**] 12:18 PM
   Micafungin - [**2198-4-17**] 03:30 PM
   Meropenem - [**2198-4-18**] 03:58 AM
   Metronidazole - [**2198-4-18**] 08:06 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2198-4-17**] 07:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-18**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.4
C (97.6
   HR: 87 (78 - 139) bpm
   BP: 97/59(69) {97/48(60) - 136/77(87)} mmHg
   RR: 14 (12 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 9 (7 - 9)mmHg
   Total In:
                                                                  5,583 mL
                                                                  1,688 mL
   PO:
   TF:
                                                                     68 mL
   IVF:
                                                                  4,719 mL
                                                                  1,508 mL
   Blood products:
                                                                    557 mL
   Total out:
                                                                  2,550 mL
                                                                    700 mL
   Urine:
                                                                  1,850 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,033 mL
                                                                    988 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 635 (510 - 635) mL
   PS : 5 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.47/35/77/26/1
   Ve: 9.4 L/min
   PaO2 / FiO2: 193
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   66 K/uL
   98 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.1 mEq/L
   11 mg/dL
   108 mEq/L
   139 mEq/L
   25.6 %
   5.3 K/uL
        [image002.jpg]
                             [**2198-4-15**]  07:46 AM
                             [**2198-4-15**]  02:48 PM
                             [**2198-4-15**]  10:08 PM
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
   WBC
   3.2
   3.2
   7.9
   6.7
   5.3
   Hct
   26.6
   26.7
   26.9
   27.8
   25.6
   Plt
   118
   100
   89
   68
   66
   Cr
   1.1
   0.8
   0.7
   0.6
   0.6
   0.6
   TCO2
   31
   27
   26
   Glucose
   143
   110
   106
   118
   102
   108
   98
   Other labs: PT / PTT / INR:23.0/57.5/2.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:210/74, Alk Phos / T Bili:150/12.2, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:311 IU/L, Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   1. Fulminant Hepatic Failure: [**3-5**] acetaminophen and EtOH
   -HIDA scan uninterpretable
   -coags stable
   -NH3 decreased
   -cont. lactulose
   2. Sepsis/bacteremia: Citrobacter and Strep
   -f/u ID recs re abx, meropenem lowers seizure threshold
   -f/u TTE
   -CT leg reassuring
   -d/c flagyl
   3. AMS: Seizure vs. Hepatic encephalopathy
   -f/u 24h EEG
   -f/u neuro recs
   -clarify when we can take off propofol to reexamine mental status
   4. FEN: start TF
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-4-16**] 05:22 PM
   Multi Lumen - [**2198-4-17**] 10:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of service provided. I would add the following: 44 yo male
   admitted with Tylenol toxicity/acute hepatic failure and polymicrobial
   sepsis, course complicated by AMS mid-hospitalization requiring
   intubation for airway protection. Started on Keppra yesterday due to
   concerns of seizures with left gaze preference. Dental evaluation
   without obvious infectious source, but incomplete. HIDA scan difficult
   to interpret.
   On exam, pt sedated on propofol, pupils constricted but sluggishly
   reactive, midline position
   Problem [**Name (NI) 198**]:
   Acute hepatic failure
   Polymicrobial sepsis with Citrobacter/Strep anginosis, surveillance
   blood cultures now negative
   Altered mental status- with eval yesterday, suspect seizure on top of
   liver failure/sepsis
   Acute respiratory failure
   Started on Keppra yesterday and to get continuous EEG today
   No attempts to wean propofol until tomorrow
   Complete ID workup with echo/[**Doctor First Name **] eval but appears source of
   polymicrobial sepsis will be gut translocation (vs. biliary)
   D/c flagyl and adjust abx based on culture ID (?d/c merepnem with
   concern for seizures)
   Continue lactulose, ventilator support, supportive care
   Pt is critically ill. Time spent on pt: 40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-18**] 12:04 ------

2198-04-19 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2198-4-18**] 09:42 AM
 EEG - At [**2198-4-18**] 10:13 AM
   Cont EEG applied
   - changed [**Last Name (un) **] to ceftriaxone, flagyl plus vanc
   - micro - need another day but new anaerobic species growing out
   - transplant surgery recommended placement of percutaneous biliary
   drain by IR
   - neuro - keppra today and can wean propofol tomorrow
   - AFP <10 = poor prognostic indicator
   - platelets and FFP ordered for biliary drain placement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-18**] 12:47 PM
   Micafungin - [**2198-4-18**] 02:07 PM
   Ceftriaxone - [**2198-4-18**] 07:00 PM
   Metronidazole - [**2198-4-19**] 12:00 AM
   Vancomycin - [**2198-4-19**] 12:05 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Heme / Lymph: Coagulopathy
   Flowsheet Data as of  [**2198-4-19**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 100 (79 - 102) bpm
   BP: 98/53(64) {94/48(58) - 120/69(80)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
    CVP: 6 (4 - 12)mmHg
   Total In:
                                                                  5,502 mL
                                                                  1,032 mL
   PO:
   TF:
   IVF:
                                                                  4,842 mL
                                                                  1,032 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                  2,060 mL
                                                                    470 mL
   Urine:
                                                                  1,660 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,442 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 690 (432 - 766) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///22/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   54 K/uL
   9.1 g/dL
   94 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.2 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   27.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
   WBC
   3.2
   7.9
   6.7
   5.3
   7.5
   Hct
   26.7
   26.9
   27.8
   25.6
   27.7
   27.2
   Plt
   100
   89
   68
   66
   54
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   TCO2
   27
   26
   Glucose
   106
   118
   102
   108
   98
   108
   86
   94
   Other labs: PT / PTT / INR:24.9/49.0/2.4, CK / CKMB / Troponin-T:32//,
   ALT / AST:166/58, Alk Phos / T Bili:159/13.2, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:283 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Imaging: TTE: Normal regional and global biventricular systolic
   function. No evidence of diastolic dysfunction. No significant valvular
   abnormality
   Microbiology: [**4-13**] Blood cx: [**2198-4-13**] 11:34 pm
         CITROBACTER FREUNDII COMPLEX.    FINAL SENSITIVITIES.
   ANAEROBIC GRAM NEGATIVE ROD(S).    BETA LACTAMASE POSITIVE.
   [**4-13**] blood cx: STREPTOCOCCUS ANGINOSUS (MILLERI) GROUP.
            ISOLATED FROM ONE SET ONLY.
         PRESUMPTIVE VEILLONELLA SPECIES.
         ANAEROBIC GRAM NEGATIVE ROD(S).    BETA LACTAMASE POSITIVE.
         GRAM NEGATIVE ROD(S).
   [**2108-4-14**] blood cx: P
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   ICU Care
   44 yo M with h/o fibular fracture, admitted with hepatic / renal
   failure in the setting of excessive acetaminophen use.
   # Hepatic Failure: Likely secondary to Tylenol overdose, but other
   considerations include viral infection (h/o tattoos), ischemia,
   auto-immune or other toxin exposure.  INR > 9, TBili > 9 on
   presentation.
   - LFTs / coag monitoring
   - plan for NAC until Tylenol level negative, INR <1.5
   - Hepatitis panel, EBV - Neg
   -  CMV, HSV: P
   - HIV: negative
   - Alpha-1-antitrpsin ELEVATED, IgG, Ceruloplasmin: P
   - Iron studies
   - SW consult for patient coping and insurance issues if transplanted
   - VitK 10mg IV x 1 given yesterday; no further FFP given
   - RUQ u/s with flow: coarsened liver, nl vascular waveforms, thickened
   GB wall may be [**3-5**] hepatitis or chronic liver disease
   - Utox: neg
   - Transplant surgery following closely
   .
   # Polymicrobial Sepsis:  Patient with both GPC and GNR in the blood,
   unclear source.  Pan-scan [**4-16**] without obvious source but with
   colitis.  Started on Vanc/Zosyn, now on Vanc, [**Last Name (un) 1540**], Flagyl.  GRC
   speciated to strep anginosus which is typically an oral bacteria, GNR
   citrobacter.
   - Follow-up cultures
   - daily blood cultures
   - Final reads CT scan
   -  LP - normal glucose and protein, no WBCs, f/u CSF cx
   - OSH Op notes unrevealing
   - daily blood cultures for surveillance
   - Hida scan unrevealing, surgery following
   - add micafungin per ID
   - dental consult - teeth possible source of strep anginosus
   -  changed NG to an OG [**3-5**] sinus infection
   - touch base with ID re ESBL coverage
   - discuss perc drain with transplant surgery
   .
   # Altered mental status: [**4-15**] noted to have increasing agitation, anger
   and hostility.  Also with tachycardia / hypertension.  Per discussion
   with his mother, patient has been drinking heavily lately and has had
   drinking problems in the past.  Concern for withdrawal vs CNS
   infection.
   -  LP unrevealing, follow-up cultures
   - full EEG for evaluation of possible seizure focus
   - neuro consult: started Keppra, awaiting EEG
   - continue lactulose
   - propofol ONLY for sedation (no benzos or narcs)
   .
   # Renal Failure: Likely secondary to Tylenol overdose in combination
   with prerenal etiology given poor po intake and dry on physical exam.
   Also could have developed ATN if low BP in the last several days.
   Resolved.
   .
   # Tachycardia: Likely secondary to poor po intake, hepatic failure and
   anxiety and now polymicrobial sepsis
   -          Fluid resuscitation as needed
   .
   # Pancytopenia
   -          [**Hospital1 **] HCT
   -          Transfuse for HCT <27, Plt <15 or evidence of bleeding
   .
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.
   - f/u contrast scan of the leg
   .
   FEN: replete PRN / TFs after HIDA scan/ NGT --> OGT/ nutrition c/s
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-4-16**] 05:22 PM
   Multi Lumen - [**2198-4-17**] 10:37 PM
   Prophylaxis:
   DVT:  Boots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2198-04-19 10:43:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Unremarkable TTE. Also growing anerobe from BCx. Citrobacter is beta
   lactamase pos. Started on keppra 1g [**Hospital1 **]. Eyes deviated downward off
   propofol.
 TRANSTHORACIC ECHO - At [**2198-4-18**] 09:42 AM
 EEG - At [**2198-4-18**] 10:13 AM
   Cont EEG applied
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-18**] 12:47 PM
   Micafungin - [**2198-4-18**] 02:07 PM
   Ceftriaxone - [**2198-4-18**] 07:00 PM
   Vancomycin - [**2198-4-19**] 12:05 AM
   Metronidazole - [**2198-4-19**] 08:51 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-19**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 93 (79 - 102) bpm
   BP: 108/57(68) {94/48(58) - 120/68(80)} mmHg
   RR: 13 (11 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 8 (4 - 12)mmHg
   Total In:
                                                                  5,502 mL
                                                                  1,454 mL
   PO:
   TF:
   IVF:
                                                                  4,842 mL
                                                                  1,454 mL
   Blood products:
                                                                    270 mL
   Total out:
                                                                  2,060 mL
                                                                    640 mL
   Urine:
                                                                  1,660 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,442 mL
                                                                    814 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 690 (432 - 766) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 8.7 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : bilat exp)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   54 K/uL
   94 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.2 mEq/L
   9 mg/dL
   108 mEq/L
   139 mEq/L
   27.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2198-4-16**]  04:04 AM
                             [**2198-4-16**]  06:53 AM
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
   WBC
   3.2
   7.9
   6.7
   5.3
   7.5
   Hct
   26.7
   26.9
   27.8
   25.6
   27.7
   27.2
   Plt
   100
   89
   68
   66
   54
   Cr
   0.8
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   TCO2
   27
   26
   Glucose
   106
   118
   102
   108
   98
   108
   86
   94
   Other labs: PT / PTT / INR:24.9/49.0/2.4, CK / CKMB / Troponin-T:32//,
   ALT / AST:166/58, Alk Phos / T Bili:159/13.2, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:283 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   1. AMS: hepatic encephalopathy vs seizure
   -cont. keppra, cont. propofol
   -f/u neuro recs and EEG
   -lactulose
   2. Polymicrobial sepsis: Possible cholangitis or colitis as a source
   -f/u ID recs
   -f/u liver recs
   -switch to vanco/meropenem to cover B lactamase producing anaerobe
   3. Resp: intubated for airway protection
   -cont. propofol until EEG read
   -cont. lactulose
   4. fib fx with hardware: no abscess
   5. Anemia: Had BRBPR intiially, now stopped
   -follow [**Hospital1 **] hct
   6. Fulminant hepatic failure:
   -coags and bili stable
   -cont. NAC
   7. FEN: TF
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-4-16**] 05:22 PM
   Multi Lumen - [**2198-4-17**] 10:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined this pt, and was present with Dr. [**First Name (STitle) 1068**] for the key
   portions of the services provided. I agree with her note above, and
   would add the following: 44 yo male with fulminant hepatic failure from
   Tylenol toxicity and suspected underlying alcohol use. Subsequently
   with obtundation/acute respiratory failure in the context of
   polymicrobial sepsis and ?seizure. Attempted to wean off propofol s/p
   keppra loading but resumed when lateral gaze preference returned. Await
   EEG read. Continuing ventilator support, antibiotics and will re-scan
   head CT tomorrow.
   Pt is critically ill. Time spent on pt: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-19**] 18:35 ------

2198-04-20 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - U/S: GB now more distended
   - Surgery: No need for GB drainage / intervention
   - ID: culture only if spikes fever, but no need to do so daily; await
   HSV PCR, check vanco trough
   - Liver recs; Continue NAC and antibiotics; pt is not a liver
   transplant candidate
   - Micro data confirms Citrobacter is Ceftriaxone sensitive, antibiotics
   narrowed to this
   - HCT stable
   - Attempted to wean propofol, developed new eye deviation so restarted
   - Called by Micro at 6:40AM on [**4-20**]; blood culture from CVL [**4-19**] with
   GPC in pairs and clusters from anaerobic bottle
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-19**] 01:23 PM
   Micafungin - [**2198-4-19**] 03:34 PM
   Ceftriaxone - [**2198-4-19**] 10:00 PM
   Vancomycin - [**2198-4-20**] 12:00 AM
   Metronidazole - [**2198-4-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-20**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 99 (87 - 110) bpm
   BP: 102/48(61) {92/46(57) - 119/65(77)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
    CVP: 2 (2 - 8)mmHg
   Total In:
                                                                  3,060 mL
                                                                  1,038 mL
   PO:
   TF:
   IVF:
                                                                  2,880 mL
                                                                    978 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    930 mL
   Urine:
                                                                  1,320 mL
                                                                    480 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                  1,190 mL
                                                                    108 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 714 (320 - 910) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 12.9 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   51 K/uL
   9.5 g/dL
   106 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.2 mEq/L
   9 mg/dL
   107 mEq/L
   136 mEq/L
   27.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
   WBC
   7.9
   6.7
   5.3
   7.5
   6.6
   9.9
   Hct
   26.9
   27.8
   25.6
   27.7
   27.2
   27.9
   27.7
   Plt
   89
   68
   66
   54
   47
   51
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   TCO2
   26
   Glucose
   118
   102
   108
   98
   108
   86
   94
   90
   106
   Other labs: PT / PTT / INR:24.4/47.1/2.4, CK / CKMB / Troponin-T:32//,
   ALT / AST:129/54, Alk Phos / T Bili:156/12.1, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:283 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Imaging: [**4-19**] U/S: Increased GB size comapred to prior scan. GB filled
   with clear bile; no
   evidence of sludge or stones. Wall mildly thickened. No pericholecystic
   fluid.
   No bile duct dilatation.
   Microbiology: [**4-19**] Blood cx: GRAM POSITIVE COCCUS(COCCI).    IN PAIRS
   AND CLUSTERS
   [**4-14**] Blood cx: STREPTOCOCCUS ANGINOSUS (MILLERI) GROUP.
            ISOLATED FROM ONE SET ONLY.
         PRESUMPTIVE VEILLONELLA SPECIES.    ISOLATED FROM ONE SET ONLY.
         ANAEROBIC GRAM NEGATIVE ROD(S).    BETA LACTAMASE POSITIVE.
         CITROBACTER FREUNDII COMPLEX.
            IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE #
   [**Numeric Identifier 4933**]
            [**2198-4-13**].
   [**4-13**] Blood c: GRAM POSITIVE COCCI IN PAIRS, CHAINS, AND CLUSTERS.
   Assessment and Plan
   44 yo M with h/o fibular fracture, admitted with hepatic / renal
   failure in the setting of excessive acetaminophen use.
   # Hepatic Failure: Likely secondary to Tylenol overdose, but other
   considerations include viral infection (h/o tattoos), ischemia,
   auto-immune or other toxin exposure.  INR > 9, TBili > 9 on
   presentation.
   - LFTs / coag monitoring
   - plan for NAC until Tylenol level negative, INR <1.5
   - Hepatitis panel, EBV - Neg
   -  CMV, HSV: P
   - HIV: negative
   - Alpha-1-antitrpsin ELEVATED, IgG, Ceruloplasmin: P
   - Iron studies
   - SW consult for patient coping and insurance issues if transplanted
   - VitK 10mg IV x 1 given yesterday; no further FFP given
   - RUQ u/s with flow: coarsened liver, nl vascular waveforms, thickened
   GB wall may be [**3-5**] hepatitis or chronic liver disease
   - Utox: neg
   - Transplant surgery following closely
   .
   # Polymicrobial Sepsis:  Patient with both GPC and GNR in the blood,
   unclear source.  Pan-scan [**4-16**] without obvious source but with
   colitis.  Started on Vanc/Zosyn, now on Vanc, [**Last Name (un) 1540**], Flagyl.  GRC
   speciated to strep anginosus which is typically an oral bacteria, GNR
   citrobacter. Now new blood cx from yesterday with GPCs.
   - Follow-up cultures
   - daily blood cultures
   - Final reads CT scan
   -  LP - normal glucose and protein, no WBCs, f/u CSF cx
   - OSH Op notes unrevealing
   - daily blood cultures for surveillance
   - Hida scan unrevealing, repeat u/s w/o clear evidence of cholecystitis
   but indeterminate, surgery following
   - added micafungin per ID
   - dental consult - teeth possible source of strep anginosus
   -  changed NG to an OG [**3-5**] sinus infection
   - touch base with ID re ESBL coverage
   - discuss perc drain with transplant surgery
   - consider changing CVL
   .
   # Altered mental status: [**4-15**] noted to have increasing agitation, anger
   and hostility.  Also with tachycardia / hypertension.  Per discussion
   with his mother, patient has been drinking heavily lately and has had
   drinking problems in the past.  Concern for withdrawal vs CNS
   infection.
   -  LP unrevealing, follow-up cultures
   - full EEG for evaluation of possible seizure focus
   - neuro consult: started Keppra, awaiting EEG report
   - continue lactulose
   - propofol ONLY for sedation (no benzos or narcs)
   .
   # Renal Failure: Likely secondary to Tylenol overdose in combination
   with prerenal etiology given poor po intake and dry on physical exam.
   Also could have developed ATN if low BP in the last several days.
   Resolved.
   .
   # Tachycardia: Likely secondary to poor po intake, hepatic failure and
   anxiety and now polymicrobial sepsis
   -          Fluid resuscitation as needed
   .
   # Pancytopenia
   -          [**Hospital1 **] HCT
   -          Transfuse for HCT <27, Plt <15 or evidence of bleeding
   .
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.
   - f/u contrast scan of the leg: no clear fluid collection/abscess
   .
   FEN: replete PRN / TFs after HIDA scan/ NGT --> OGT/ nutrition c/s
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-13**] 10:45 PM
   18 Gauge - [**2198-4-16**] 05:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   18 Gauge - [**2198-4-16**] 05:22 PM
   Multi Lumen - [**2198-4-17**] 10:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:  Bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2198-04-20 10:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   EEG prelim report shows no seizure activity. Repeat BCx shows GPCs.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-19**] 01:23 PM
   Micafungin - [**2198-4-19**] 03:34 PM
   Ceftriaxone - [**2198-4-19**] 10:00 PM
   Vancomycin - [**2198-4-20**] 12:00 AM
   Metronidazole - [**2198-4-20**] 08:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-20**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 97 (87 - 110) bpm
   BP: 107/56(67) {92/46(57) - 119/65(77)} mmHg
   RR: 13 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
   CVP: 2 (2 - 8)mmHg
   Total In:
                                                                  3,060 mL
                                                                  1,824 mL
   PO:
   TF:
   IVF:
                                                                  2,880 mL
                                                                  1,638 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                  1,110 mL
   Urine:
                                                                  1,320 mL
                                                                    660 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                  1,190 mL
                                                                    718 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 663 (320 - 910) mL
   PS : 5 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 34
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 7.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: pupils pinpojnt but reactive
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Sedated, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   51 K/uL
   106 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.2 mEq/L
   9 mg/dL
   107 mEq/L
   136 mEq/L
   27.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2198-4-16**]  03:05 PM
                             [**2198-4-17**]  03:21 AM
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
   WBC
   7.9
   6.7
   5.3
   7.5
   6.6
   9.9
   Hct
   26.9
   27.8
   25.6
   27.7
   27.2
   27.9
   27.7
   Plt
   89
   68
   66
   54
   47
   51
   Cr
   0.7
   0.6
   0.6
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   TCO2
   26
   Glucose
   118
   102
   108
   98
   108
   86
   94
   90
   106
   Other labs: PT / PTT / INR:24.4/47.1/2.4, CK / CKMB / Troponin-T:32//,
   ALT / AST:129/54, Alk Phos / T Bili:156/12.1, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:283 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   1. Hepatic encephalopathy
   -hold propofol
   -if not purposeful
   2. Polymicrobial sepsis:
   -vanco/ctx/flagyl
   -inc vanc to 1500 q12h
   -pull line and replace
   -f/u cx
   -sugery following re gall bladder
   3. Fulminant hepatic failure:
   -NAC
   -not transplant candidate due to EtOH use
   4. Resp: Secondary to poor MS
   [**Name13 (STitle) 4934**] propofol
   -if following commands and alert could extubate
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2198-4-16**] 05:22 PM
   Multi Lumen - [**2198-4-17**] 10:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 1068**]
   note above, and would add the following: 44 yo male admitted with acute
   hepatic failure from accidental Tylenol OD s/p left fibular fracture.
   Despite indications of improving liver function, after several days his
   mental status abruptly deteriorated to obtundation and acute
   respiratory failure requiring intubation for airway. Contributing
   factors include: suspected abnormal liver function due to alcohol,
   sedation, polymicrobial sepsis with Citrobacter x 2/vivonella/Strep
   anginosis (presumed gut translocation), possible seizure activity. Pt
   loaded on Keppra, now off Propofol and still not following commands.
   Awaiting results of 24 hour EEG, will also obtain repeat head CT.
   Surveillance blood cultures had been negative after initial + results
   from [**4-14**]; however cultures from CVL yesterday now growing out
   GPC
will re-site. Continue current level of ventilator support.
   Pt is critically ill. Total time spent: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-20**] 15:36 ------

2198-04-21 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ABX changed to: Vanc/CTX/Flagyl
   - CT head: no sig change from previous
   - R IJ removed, 3 PIVs placed
   - Placed L IJ, went into subclav, then azygous, so just pulled line
   - Off propofol
   - Having some bleeding from hemorrhoids
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-19**] 01:23 PM
   Micafungin - [**2198-4-19**] 03:34 PM
   Ceftriaxone - [**2198-4-20**] 08:00 PM
   Vancomycin - [**2198-4-21**] 12:00 AM
   Metronidazole - [**2198-4-21**] 07:33 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-21**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 97 (86 - 105) bpm
   BP: 124/57(73) {101/52(66) - 128/73(108)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  5,225 mL
                                                                  1,895 mL
   PO:
             TF:
   IVF:
                                                                  4,233 mL
                                                                  1,505 mL
   Blood products:
                                                                    712 mL
   Total out:
                                                                  1,845 mL
                                                                    253 mL
   Urine:
                                                                  1,395 mL
                                                                    253 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                  3,380 mL
                                                                  1,642 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 711 (41 - 711) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///25/
   Ve: 13.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   87 K/uL
   8.2 g/dL
   119 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   8 mg/dL
   107 mEq/L
   135 mEq/L
   24.6 %
   9.5 K/uL
         [image002.jpg]
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
   WBC
   6.7
   5.3
   7.5
   6.6
   9.9
   9.4
   9.5
   Hct
   27.8
   25.6
   27.7
   27.2
   27.9
   27.7
   27.3
   24.6
   Plt
   68
   66
   54
   47
   51
   57
   87
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   TCO2
   26
   Glucose
   108
   98
   108
   86
   94
   90
   106
   126
   119
   Other labs: PT / PTT / INR:25.0/46.3/2.5, CK / CKMB / Troponin-T:32//,
   ALT / AST:85/48, Alk Phos / T Bili:135/14.3, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:235 IU/L, Ca++:7.6 mg/dL, Mg++:1.5 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   44 yo M with h/o fibular fracture, admitted with hepatic / renal
   failure in the setting of excessive acetaminophen use.
   # Hepatic Failure: Likely secondary to Tylenol overdose, but other
   considerations include viral infection (h/o tattoos), ischemia,
   auto-immune or other toxin exposure.  INR > 9, TBili > 9 on
   presentation.    Plan to continue NAC until INR < 1.5. Hepatitis panel,
   EBV negative. HIV: negative. Alpha-1-antitrpsin ELEVATED. Iron studies
   without evidence of hemachromatosis. Vitamin K given x 1. RUQ u/s with
   flow: coarsened liver, nl vascular waveforms, thickened GB wall may be
   [**3-5**] hepatitis or chronic liver disease. Utox: neg.
   - LFTs / coag monitoring
   - plan for NAC, INR <1.5
   - CMV, HSV: P
   - IgG, Ceruloplasmin: P
   - SW consult for patient coping and insurance issues if transplanted
   - Transplant surgery following closely
   .
   # Polymicrobial Sepsis:  Patient with both GPC and GNR in the blood,
   unclear source.  Pan-scan [**4-16**] without obvious source but with
   colitis.  Started on Vanc/Zosyn, now on Vanc, [**Last Name (un) 1540**], Flagyl.  GRC
   speciated to strep anginosus which is typically an oral bacteria, GNR
   citrobacter. Now new blood cx from yesterday with GPCs. LP - normal
   glucose and protein, no WBCs, f/u CSF cx.  OSH Op notes unrevealing.
   Hida scan unrevealing, repeat u/s w/o clear evidence of cholecystitis
   but indeterminate, surgery following.  Added micafungin per ID, will
   discontinue [**4-20**].  Changed NG to an OG [**3-5**] sinus infection.
   - Follow-up cultures
   - daily blood cultures, will not draw off any CVL
   - Final reads CT scan
   - daily blood cultures for surveillance
   - dental consult - teeth possible source of strep anginosus
   - Transplant surgery: no perc drain at this time
   - Change CVL today
   .
   # Altered mental status: [**4-15**] noted to have increasing agitation, anger
   and hostility.  Also with tachycardia / hypertension.  Per discussion
   with his mother, patient has been drinking heavily lately and has had
   drinking problems in the past.  Concern for withdrawal vs CNS
   infection.   LP unrevealing, follow-up cultures.
   - full EEG for evaluation of possible seizure focus
   - neuro consult: started Keppra, awaiting EEG report
   - continue lactulose
   - propofol for seizure treatment, will recheck daily
   .
   # Renal Failure: Likely secondary to Tylenol overdose in combination
   with prerenal etiology given poor po intake and dry on physical exam.
   Also could have developed ATN if low BP in the last several days.
   Resolved.
   .
   # Tachycardia: Likely secondary to poor po intake, hepatic failure and
   anxiety and now polymicrobial sepsis
   -          Fluid resuscitation as needed
   .
   # Pancytopenia
   -          [**Hospital1 **] HCT
   -          Transfuse for HCT <27, Plt <15 or evidence of bleeding
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.  Contrast scan of the leg: no clear fluid
   collection/abscess.  Monitor
   FEN: TF if not extubating, replete PRN
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2198-04-21 10:38:00 Physician Attending Progress Note
Chief Complaint: Tylenol overdose
   HPI:
   Inadvertant APAP overdose, fulminant hepatic failure; persistently
   altered mental status
   24 Hour Events:
   Attempted CVL placement x 2 yesterday.  First time catheter went to
   subclavian, next was not in SVC but had venous tracing.  Ultimately
   decided to have line holiday.
   Otherwise, he remains off propofol with improvement in his mental
   status.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-19**] 01:23 PM
   Micafungin - [**2198-4-19**] 03:34 PM
   Ceftriaxone - [**2198-4-20**] 08:00 PM
   Vancomycin - [**2198-4-21**] 12:00 AM
   Metronidazole - [**2198-4-21**] 07:33 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Atrovent
   NAC
   Thiamine
   Lactulose
   Chlorhexadine
   Keppra 1000 [**Hospital1 **]
   Rifaxamin
   Flagyl
   Ceftriaxone
   Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-21**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.3
C (99.2
   HR: 108 (86 - 108) bpm
   BP: 111/64(76) {101/52(66) - 128/73(108)} mmHg
   RR: 16 (11 - 22) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 73 Inch
             Total In:
                                                                  5,225 mL
                                                                  2,209 mL
   PO:
             TF:
   IVF:
                                                                  4,233 mL
                                                                  1,819 mL
   Blood products:
                                                                    712 mL
   Total out:
                                                                  1,845 mL
                                                                    423 mL
   Urine:
                                                                  1,395 mL
                                                                    423 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                  3,380 mL
                                                                  1,786 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 545 (41 - 711) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 17 L/min
   Physical Examination
   General Appearance: intubated and sedated; minimally responsive to
   commands
   Chest: Clear lungs
   CV: RRR without murmur
   Abd: s/nt/nd
   Ext: no edema
   Labs / Radiology
   8.2 g/dL
   87 K/uL
   119 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.1 mEq/L
   8 mg/dL
   107 mEq/L
   135 mEq/L
   24.6 %
   9.5 K/uL
        [image002.jpg]
                             [**2198-4-17**]  02:57 PM
                             [**2198-4-18**]  03:27 AM
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
   WBC
   6.7
   5.3
   7.5
   6.6
   9.9
   9.4
   9.5
   Hct
   27.8
   25.6
   27.7
   27.2
   27.9
   27.7
   27.3
   24.6
   Plt
   68
   66
   54
   47
   51
   57
   87
   Cr
   0.6
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   TCO2
   26
   Glucose
   108
   98
   108
   86
   94
   90
   106
   126
   119
   Other labs: PT / PTT / INR:25.0/46.3/2.5, CK / CKMB / Troponin-T:32//,
   ALT / AST:85/48, Alk Phos / T Bili:135/14.3, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:235 IU/L, Ca++:7.6 mg/dL, Mg++:1.5 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   44M admitted with APAP overdose and subsequent hepatic failure and
   encephalopathy leading to obtundation requiring intubation for airway
   protection.  Now off propofol overnight and slowly improving mental
   status.
   1. Respiratory failure: Intubated for airway protection.  His MS is
   improving, but not yet improved enough to safely extubate.  Will follow
   today off propofol and sedation. Currently adequate gas exchange on PSV
   [**6-5**].
    - Hold propofol, continue PSV.
    - Will extubate whenever mental status improves
    - If develops agitation, favor haldol over re-initiation of propofol
   or benzos if possible.
   2. Liver Failure: He remains obtunded but now improving in terms of
   tracking and possibly following simple commands.  He awakens to voice.
   Overall, LFTS are improving.
     - Continue NAC
    - Continue lactulose
   3. Anemia: Has had hematochezia secondary to hemorrhoids. HCT dropped
   from 27 to 24, but hemodynamically stable.
    - rpt HCT in PM
   4. ID: Bacteremia with citrobacter/strep/anaerobe/veillonella.
    - continue vanco/CTX/flagyl
    - ID is following
   ICU Care
   Nutrition:
   Comments: Start enteral feeds today.
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   I examined the patient on this date and was physically present with the
   housestaff and would agree with the above note and findings as
   designated above and would add the following.
   Patient is 44 yo male with dense encephalopathy in the setting of
   hepatic failure with Tylenol/EtOH as trigger.  He has had steady
   improvement in exam with patient today showing
   Eye movement to voice.
   Appropriate withdrawl to pain
   PSV-[**6-5**] with RR <20 and stable O2 saturations.
   Agree with
   -Continued minimal sedation
   -Maintain intubation until patient clearly able to protect airway
   -Continue NAC and Lactulose
   -Thiamine/Folate given
   Critical Care Time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-21**] 14:29 ------

2198-04-22 07:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Hepatic failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2198-4-21**] 11:35 PM
   - Levetiracetam stopped (as there was no evidence of seizures) to help
   with mental status; neuro hesistant though
   - ID recs: d/c vanco as coag-neg Staph was likely contaminant and Strep
   is covered by CTX; continue CTX and metronidazole for total of 14 days
   starting from [**2198-4-14**] (day of first neg blood cultures)
   - extubated
   - NGT placed
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-19**] 01:23 PM
   Micafungin - [**2198-4-19**] 03:34 PM
   Vancomycin - [**2198-4-21**] 11:58 AM
   Ceftriaxone - [**2198-4-21**] 10:00 PM
   Metronidazole - [**2198-4-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Flowsheet Data as of  [**2198-4-22**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.8
C (96.5
   HR: 113 (97 - 133) bpm
   BP: 101/74(80) {85/44(56) - 138/74(85)} mmHg
   RR: 19 (13 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.6 kg (admission): 89 kg
   Height: 73 Inch
             Total In:
                                                                  4,870 mL
                                                                    668 mL
   PO:
             TF:
                                                                    249 mL
   IVF:
                                                                  3,691 mL
                                                                    668 mL
   Blood products:
   Total out:
                                                                  1,861 mL
                                                                    830 mL
   Urine:
                                                                    961 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,009 mL
                                                                   -162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: Standby
   Vt (Spontaneous): 849 (517 - 1,011) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 13 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Rhonchorous: )
   Abdominal: Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   8.5 g/dL
   80 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.1 mEq/L
   9 mg/dL
   109 mEq/L
   137 mEq/L
   26.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
                             [**2198-4-21**]  03:16 PM
                             [**2198-4-22**]  03:36 AM
   WBC
   5.3
   7.5
   6.6
   9.9
   9.4
   9.5
   11.1
   12.6
   Hct
   25.6
   27.7
   27.2
   27.9
   27.7
   27.3
   24.6
   25.7
   26.0
   Plt
   66
   54
   47
   51
   57
   87
   90
   111
   Cr
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.8
   Glucose
   98
   108
   86
   94
   90
   106
   126
   119
   107
   80
   Other labs: PT / PTT / INR:31.1/50.7/3.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:81/59, Alk Phos / T Bili:148/17.0, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:235 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   44 yo M with h/o fibular fracture, admitted with hepatic and renal
   failure in the setting of excessive acetaminophen use.
   # Respiratory failure: intubated due to altered mental status and
   inability to protect airway. Doing well on PS 5/5 currently but mental
   status still altered.  Extubated [**4-21**] with good cough and gag.
   - monitor MS
   # Altered mental status: [**4-15**] noted to have increasing agitation,
   anger, hostility, tachycardia, hypertension.  Per mother, patient has
   been drinking heavily. Concern for withdrawal vs hepatic
   encephalopathy. CSF studies unremarkable. EEG showed no seizure. Brain
   imaging studies unremarkable.  Keppra stopped [**4-21**]
   - continue lactulose
   - hold sedatives if possible
   # Hepatic failure: most likely secondary to acetaminophen overdose. Hep
   panel neg, EBV and HIV neg; alpha-1-antitrypsin elevated however. Iron
   studies without evidence of hemachromatosis. Vitamin K given x 1. RUQ
   u/s with flow: coarsened liver, nl vascular waveforms, thickened GB
   wall may be [**3-5**] hepatitis or chronic liver disease. Utox: neg. LFTs
   have been trending down. Has been on acetylcysteine continuous
   infusion.
   - continue NAC until INR < 1.5
   - LFTs / coag monitoring
   - f/u liver recs
   .
   # Polymicrobial bacteremia: with coag-neg Staph, Strep anginosus,
   Veillonella, Bacteroides, Citrobacter in blood.  Pan-scan [**4-16**] without
   obvious source but with colitis.  Was initially on vanc, pip-tazo, then
   vanc, [**Last Name (un) **], metronidazole then vanc, ceftriaxone, metronidazole. LP -
   normal glucose and protein, no WBCs, f/u CSF cx.  OSH Op notes
   unrevealing. Hida scan unrevealing, repeat u/s w/o clear evidence of
   cholecystitis but indeterminate, surgery following.  Changed NG to an
   OG [**3-5**] sinus infection.
   - continue vanc, CTX, metronidazole
   - daily blood cultures
   - dental consult - teeth possible source of strep anginosus
   - transplant surgery: no perc drain at this time
   .
   # Recent renal failure: Now resolved. Was likely secondary to
   acetaminophen overdose in combination with prerenal etiology given poor
   po intake and dry on physical exam.
   .
   # Pancytopenia: hepatic failure. Now with bleeding from hemorrhoids.
   - transfuse for HCT <27, Plt <15 or evidence of bleeding
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.  Contrast scan of the leg: no clear fluid
   collection/abscess.  Monitor
   FEN: TF
   Access: PIV x 3
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]

2198-04-22 09:09:00 Physician Attending Progress Note
Chief Complaint: APAP overdose, fulminant hepatic failure
   24 Hour Events:
   Extubated for agitation; mental status minimally improved.  Keppra
   discontinued given concern for any contribution to global
   toxic-metabolic encephalopathy.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2198-4-19**] 01:23 PM
   Micafungin - [**2198-4-19**] 03:34 PM
   Vancomycin - [**2198-4-21**] 11:58 AM
   Ceftriaxone - [**2198-4-21**] 10:00 PM
   Metronidazole - [**2198-4-22**] 08:05 AM
   Other medications:
   Colace
   NAC
   Lactulose
   PPI
   Flagyl
   Rixamin
   Ceftriaxone
   Changes to medical and family history:
   No change from admission
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-22**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.8
C (96.5
   HR: 113 (99 - 133) bpm
   BP: 115/68(80) {85/44(56) - 138/74(85)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.6 kg (admission): 89 kg
   Height: 73 Inch
             Total In:
                                                                  4,870 mL
                                                                  1,362 mL
   PO:
             TF:
                                                                    249 mL
   IVF:
                                                                  3,691 mL
                                                                  1,092 mL
   Blood products:
   Total out:
                                                                  1,861 mL
                                                                    915 mL
   Urine:
                                                                    961 mL
                                                                    415 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,009 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Endotracheal tube
   Ventilator mode: Standby
   Vt (Spontaneous): 849 (517 - 1,011) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: ///20/
   Ve: 13 L/min
   Physical Examination
   Gen: Not alert but does follow some simple commands
   Chest: CTA bilateral
   CV: RRR without murmur
   Abd: s/nt/nd
   Ext: trace edema
   Labs / Radiology
   8.5 g/dL
   111 K/uL
   80 mg/dL
   0.8 mg/dL
   20 mEq/L
   3.1 mEq/L
   9 mg/dL
   109 mEq/L
   137 mEq/L
   26.0 %
   12.6 K/uL
        [image002.jpg]
                             [**2198-4-18**]  03:48 AM
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
                             [**2198-4-21**]  03:16 PM
                             [**2198-4-22**]  03:36 AM
   WBC
   5.3
   7.5
   6.6
   9.9
   9.4
   9.5
   11.1
   12.6
   Hct
   25.6
   27.7
   27.2
   27.9
   27.7
   27.3
   24.6
   25.7
   26.0
   Plt
   66
   54
   47
   51
   57
   87
   90
   111
   Cr
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.8
   Glucose
   98
   108
   86
   94
   90
   106
   126
   119
   107
   80
   Other labs: PT / PTT / INR:31.1/50.7/3.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:81/59, Alk Phos / T Bili:148/17.0, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:235 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   44M admitted with APAP overdose and subsequent hepatic failure and
   encephalopathy leading to obtundation requiring intubation for airway
   protection.  Extubated overnight given some improvement in mental
   status and increased agitation; concern would require sedation.
   1. Respiratory failure: Oxygenation stable; now extubated.   His
   indication for intubation was obtundation; but
   2. Liver Failure: He remains obtunded but now improving in terms of
   tracking and possibly following simple commands.  He awakens to voice.
   Overall, LFTS are improving. INR is rising, but other signs are
   improving.  His rising INR could also be complicated by nutritional
   deficiency.
    - Continue NAC
    - Continue lactulose
    - off keppra now; will monitor for other signs of seizure activity
    - Vitamin K 10mg PO
   3. Anemia: Has had hematochezia secondary to hemorrhoids. HCT dropped
   from 27 to 24, but hemodynamically stable. Current HCT is stable.
    - will monitor daily
   4. ID: Bacteremia with citrobacter/strep/anaerobe/veillonella.  WBC is
   rising from 7.5 to 12.6 over the last three days.
    - continue CTX/flagyl x 14 days as per ID recs.
    - Monitor for signs of infection
   5. FEN: persistent hypokalemia, hypophosphatemia
    - recheck lytes in PM
   ICU Care
   Nutrition: Start enteral feeds slowly; monitor for residuals
   Lines:
   20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-22**] 15:33 ------

2198-04-23 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Tubefeeding restarted
   - Recultured given increasing leukocytosis
   - Given Vitamin K 10mg po x 1
   - Liver recs: reculture, stop NAC
   - Restraints & 4-sided rails ordered Q4H
   - Pt self-d/c NGT at 3pm, replaced by nursing; CXR confirms placement
   - Mental status improving, approximately 9pm began hallucinating that
   there were snakes in his bed; given Haldol 0.5mg IV x 1, then repeated
   at 3am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-21**] 11:58 AM
   Ceftriaxone - [**2198-4-22**] 08:30 PM
   Metronidazole - [**2198-4-23**] 12:42 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-22**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-23**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 127 (104 - 129) bpm
   BP: 125/60(75) {101/55(45) - 144/81(93)} mmHg
   RR: 17 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.6 kg (admission): 89 kg
   Height: 73 Inch
             Total In:
                                                                  3,973 mL
                                                                    892 mL
   PO:
             TF:
                                                                    584 mL
                                                                    452 mL
   IVF:
                                                                  2,529 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                    430 mL
   Urine:
                                                                  1,110 mL
                                                                    430 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,863 mL
                                                                    462 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   123 K/uL
   9.0 g/dL
   109 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   9 mg/dL
   111 mEq/L
   140 mEq/L
   27.5 %
   12.6 K/uL
        [image002.jpg]
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
                             [**2198-4-21**]  03:16 PM
                             [**2198-4-22**]  03:36 AM
                             [**2198-4-23**]  03:03 AM
   WBC
   7.5
   6.6
   9.9
   9.4
   9.5
   11.1
   12.6
   12.6
   Hct
   27.7
   27.2
   27.9
   27.7
   27.3
   24.6
   25.7
   26.0
   27.5
   Plt
   54
   47
   51
   57
   87
   90
   111
   123
   Cr
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.8
   0.7
   Glucose
   108
   86
   94
   90
   106
   126
   119
   107
   80
   109
   Other labs: PT / PTT / INR:27.7/53.4/2.8, CK / CKMB / Troponin-T:32//,
   ALT / AST:71/62, Alk Phos / T Bili:163/17.8, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:311 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Microbiology: CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final [**2198-4-23**]):
         Feces negative for C.difficile toxin A & B by EIA.
   [**2198-4-19**] 4:15 am BLOOD CULTURE      Source: Line-CVL.  Blood Culture,
   Routine (Preliminary): STAPHYLOCOCCUS, COAGULASE NEGATIVE
   [**2198-4-13**] 11:34 pm BLOOD CULTURE      Source: Venipuncture.  **FINAL
   REPORT [**2198-4-21**]**   Blood Culture, Routine (Final [**2198-4-21**]):
   STREPTOCOCCUS ANGINOSUS (MILLERI) GROUP.    PRESUMPTIVE VEILLONELLA
   SPECIES.          BACTEROIDES FRAGILIS GROUP.    BETA LACTAMASE
   POSITIVE.
         CITROBACTER FREUNDII COMPLEX.
    BACTEROIDES FRAGILIS GROUP.    STRAIN 2.  BETA LACTAMASE POSITIVE.
   Assessment and Plan
   44 yo M with h/o fibular fracture, admitted with hepatic and renal
   failure in the setting of excessive acetaminophen use.
   # Respiratory failure: intubated due to altered mental status and
   inability to protect airway. Extubated [**4-21**] with good cough and gag.
   - monitor MS; improving
   # Altered mental status: [**4-15**] noted to have increasing agitation,
   anger, hostility, tachycardia, hypertension.  Per mother, patient has
   been drinking heavily. Concern for withdrawal vs hepatic
   encephalopathy. CSF studies unremarkable. EEG showed no seizure. Brain
   imaging studies unremarkable.  Keppra stopped [**4-21**]. MS slowly
   improving.
   - continue lactulose, rifaxamin
   - Thiamine
   - hold sedatives if possible, Haldol PRN for agitation
   # Hepatic failure: most likely secondary to acetaminophen overdose. Hep
   panel neg, EBV and HIV neg; alpha-1-antitrypsin elevated however. Iron
   studies without evidence of hemachromatosis. Vitamin K given. RUQ u/s
   with flow: coarsened liver, nl vascular waveforms, thickened GB wall
   may be [**3-5**] hepatitis or chronic liver disease. Utox: neg. LFTs have
   been trending down. Has been on acetylcysteine continuous infusion.
   - LFTs / coag monitoring
   - Stopped NAC per Liver [**4-22**]
   # Polymicrobial bacteremia: with coag-neg Staph, Strep anginosus,
   Veillonella, Bacteroides, Citrobacter in blood.  Pan-scan [**4-16**] without
   obvious source but with colitis.  Was initially on vanc, pip-tazo, then
   vanc, [**Last Name (un) **], metronidazole then vanc, ceftriaxone, metronidazole. LP -
   normal glucose and protein, no WBCs, f/u CSF cx.  OSH Op notes
   unrevealing. Hida scan unrevealing, repeat u/s w/o clear evidence of
   cholecystitis but indeterminate, surgery following.  Changed NG to an
   OG [**3-5**] sinus infection.
   - Current abx plan: CTX + Flagyl for total 14 days starting from [**4-14**]
   (first day of negative blood cx)
   - blood cultures PRN fever
   - dental consult following; goal to  have panorex once able to
   participate in study
   - transplant surgery: no perc drain at this time
   # Recent renal failure: Now resolved. Was likely secondary to
   acetaminophen overdose in combination with prerenal etiology given poor
   po intake and dry on physical exam.
   - Follow renal function
   # Pancytopenia: hepatic failure. Now with bleeding from hemorrhoids.
   - transfuse for HCT <27, Plt <15 or evidence of bleeding
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.  Contrast scan of the leg: no clear fluid
   collection/abscess.
   - Monitor
   # Buttocks rash: Noted on [**4-23**].  Appears fungal and patient with
   increased stool output with lactulose for HE.
   - Miconazole powder TID & monitor
   FEN: TF / replete lytes PRN
   Access: PIV x 3
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2198-4-23**] 06:02 AM 60 mL/hour
   ACCESS: 20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   Code status: Full code
   Disposition: ICU

2198-04-23 10:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated Sat evening. Saw snales in his bed overnight, given haldol.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-21**] 11:58 AM
   Ceftriaxone - [**2198-4-22**] 08:30 PM
   Metronidazole - [**2198-4-23**] 08:32 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-23**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-23**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 123 (104 - 129) bpm
   BP: 115/60(73) {103/54(45) - 144/81(93)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.6 kg (admission): 89 kg
   Height: 73 Inch
             Total In:
                                                                  3,973 mL
                                                                  1,432 mL
   PO:
             TF:
                                                                    584 mL
                                                                    643 mL
   IVF:
                                                                  2,529 mL
                                                                    609 mL
   Blood products:
   Total out:
                                                                  2,110 mL
                                                                  1,280 mL
   Urine:
                                                                  1,110 mL
                                                                    630 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,863 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ and RLQ, no rebound
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person only, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.0 g/dL
   123 K/uL
   109 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.4 mEq/L
   9 mg/dL
   111 mEq/L
   140 mEq/L
   27.5 %
   12.6 K/uL
        [image002.jpg]
                             [**2198-4-18**]  02:16 PM
                             [**2198-4-18**]  11:21 PM
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
                             [**2198-4-21**]  03:16 PM
                             [**2198-4-22**]  03:36 AM
                             [**2198-4-23**]  03:03 AM
   WBC
   7.5
   6.6
   9.9
   9.4
   9.5
   11.1
   12.6
   12.6
   Hct
   27.7
   27.2
   27.9
   27.7
   27.3
   24.6
   25.7
   26.0
   27.5
   Plt
   54
   47
   51
   57
   87
   90
   111
   123
   Cr
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.8
   0.7
   Glucose
   108
   86
   94
   90
   106
   126
   119
   107
   80
   109
   Other labs: PT / PTT / INR:27.7/53.4/2.8, CK / CKMB / Troponin-T:32//,
   ALT / AST:71/62, Alk Phos / T Bili:163/17.8, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:311 IU/L, Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Plan:
   1. Hepatic failure [**3-5**] tylenol
   -now off NAC
   -no response to vit K
   -cont. lactulose
   2. Polymicrobial bacteremia: Possible gut vs. teeth
   -panorex at some point when able to stand
   -ceftriaxone and flagyl for 14 days
   -surveillance cx
   3. resp: Now protecting airway
   -haldol for agitation/delirium
   4. AMS: Hepatic encephalopathy vs. delirium
   -lactulose
   -haldol prn
   -absolutely no benzos
   5. Thrombocytopenia: improving, possible [**3-5**] vanco vs. hepatic injury
   6. Sacral rash: appears fungal
   -topical antifungal
   7. fib fx: CT with contrast shows no infection at hardware, seen by
   ortho
   8. FEN: TF
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2198-4-23**] 09:51 AM 60 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the patient, and was present with the ICU team for
   the key portions of services provided. I would add: 44 yo male admitted
   with acute liver failure from tylenol toxicity + EtOH, complicated by
   acute mental status/respiratory failure, course also notable for
   polymicrobial sepsis presumed from gut translocation. He was extubated
   [**4-21**] and although MS waxes and wanes, this morning he is able to follow
   some commands and answer a few short questions. His INR is increasing,
   though this may represent malnutrition rather than worsening liver
   failure/decreased synthetic function.  Plan continued lactulose,
   CTX/flagyl for microbial sepsis, topical antifungals for sacral fungal
   rash.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-23**] 12:15 ------

2198-04-24 07:04:00 Physician Resident Progress Note
Chief Complaint: Liver Failure
   24 Hour Events:
   - Intermittent confusion but overall MS improving
   - Liver recs: lactulose, rifaxamin, follow INR
   - NGT replaced AGAIN, TF restarted
   - PT/OT
   - Cdiff: negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-21**] 11:58 AM
   Ceftriaxone - [**2198-4-23**] 10:00 PM
   Metronidazole - [**2198-4-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2198-4-23**] 08:32 AM
   Haloperidol (Haldol) - [**2198-4-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-24**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 108 (104 - 136) bpm
   BP: 108/60(71) {82/49(55) - 141/86(95)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.6 kg (admission): 89 kg
   Height: 73 Inch
             Total In:
                                                                  2,465 mL
                                                                    943 mL
   PO:
                                                                     50 mL
                                                                    720 mL
   TF:
                                                                  1,142 mL
                                                                     54 mL
   IVF:
                                                                  1,063 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    610 mL
   Urine:
                                                                  1,025 mL
                                                                    210 mL
   NG:
   Stool:
   400 mL
   Drains:
   Balance:
                                                                    790 mL
                                                                    333 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, No(t) Rash: , Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   155 K/uL
   8.8 g/dL
   94 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.0 mEq/L
   13 mg/dL
   114 mEq/L
   142 mEq/L
   27.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
                             [**2198-4-21**]  03:16 PM
                             [**2198-4-22**]  03:36 AM
                             [**2198-4-23**]  03:03 AM
                             [**2198-4-23**]  10:15 PM
                             [**2198-4-24**]  12:35 AM
   WBC
   7.5
   6.6
   9.9
   9.4
   9.5
   11.1
   12.6
   12.6
   13.2
   Hct
   27.2
   27.9
   27.7
   27.3
   24.6
   25.7
   26.0
   27.5
   27.6
   Plt
   54
   47
   51
   57
   87
   90
   111
   123
   155
   Cr
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.8
   0.7
   0.9
   0.6
   Glucose
   94
   90
   106
   126
   119
   107
   80
   109
   88
   94
   Other labs: PT / PTT / INR:31.5/58.9/3.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:71/62, Alk Phos / T Bili:163/17.8, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:311 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Microbiology: [**4-22**] - CDiff neg
   [**4-22**] - urine - no growth
   [**4-21**] - sputum - yeast
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   44 yo M with h/o fibular fracture, admitted with hepatic and renal
   failure in the setting of excessive acetaminophen use.
   # Respiratory failure: intubated due to altered mental status and
   inability to protect airway. Extubated [**4-21**] with good cough and gag.
   - monitor MS; improving
   # Altered mental status: [**4-15**] noted to have increasing agitation,
   anger, hostility, tachycardia, hypertension.  Per mother, patient has
   been drinking heavily. Concern for withdrawal vs hepatic
   encephalopathy. CSF studies unremarkable. EEG showed no seizure. Brain
   imaging studies unremarkable.  Keppra stopped [**4-21**]. MS slowly
   improving.
   - continue lactulose, rifaxamin
   - Thiamine
   - hold sedatives if possible, Haldol PRN for agitation
   # Hepatic failure: most likely secondary to acetaminophen overdose. Hep
   panel neg, EBV and HIV neg; alpha-1-antitrypsin elevated however. Iron
   studies without evidence of hemachromatosis. Vitamin K given. RUQ u/s
   with flow: coarsened liver, nl vascular waveforms, thickened GB wall
   may be [**3-5**] hepatitis or chronic liver disease. Utox: neg. LFTs have
   been trending down. Has been on acetylcysteine continuous infusion.
   - LFTs / coag monitoring
   - Stopped NAC per Liver [**4-22**]
   # Polymicrobial bacteremia: with coag-neg Staph, Strep anginosus,
   Veillonella, Bacteroides, Citrobacter in blood.  Pan-scan [**4-16**] without
   obvious source but with colitis.  Was initially on vanc, pip-tazo, then
   vanc, [**Last Name (un) **], metronidazole then vanc, ceftriaxone, metronidazole. LP -
   normal glucose and protein, no WBCs, f/u CSF cx.  OSH Op notes
   unrevealing. Hida scan unrevealing, repeat u/s w/o clear evidence of
   cholecystitis but indeterminate, surgery following.  Changed NG to an
   OG [**3-5**] sinus infection.
   - Current abx plan: CTX + Flagyl for total 14 days starting from [**4-14**]
   (first day of negative blood cx)
   - blood cultures PRN fever
   - dental consult following; goal to  have panorex once able to
   participate in study
   - transplant surgery: no perc drain at this time
   # Recent renal failure: Now resolved. Was likely secondary to
   acetaminophen overdose in combination with prerenal etiology given poor
   po intake and dry on physical exam.
   - Follow renal function
   # Pancytopenia: hepatic failure. Now with bleeding from hemorrhoids.
   - transfuse for HCT <27, Plt <15 or evidence of bleeding
   # H/o Fibular fracture: Does not appear infected at this point.  Seen
   by ortho, no evidence of infection on ST, re-scan with contrast not
   felt to be unnecessary per ortho.  OSH orthopedist did not have any
   additional information.  Contrast scan of the leg: no clear fluid
   collection/abscess.
   - Monitor
   # Buttocks rash: Noted on [**4-23**].  Appears fungal and patient with
   increased stool output with lactulose for HE.
   - Miconazole powder TID & monitor
   FEN: TF / replete lytes PRN
   Access: PIV x 3
   Ppx: pneumoboots / IV PPI
   Code: FULL (confirmed on admission)
   Contact: Mother, [**Name (NI) 919**] [**Telephone/Fax (1) 4776**]
   ICU Care
   Nutrition: Nutren Pulmonary (Full) - [**2198-4-23**] 06:02 AM 60 mL/hour
   ACCESS: 20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   Code status: Full code
   Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2198-04-24 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Still delirious, but communicative. NGT pulled, now taking pos.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2198-4-21**] 11:58 AM
   Ceftriaxone - [**2198-4-23**] 10:00 PM
   Metronidazole - [**2198-4-24**] 12:00 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2198-4-23**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2198-4-24**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.6
C (97.9
   HR: 114 (104 - 136) bpm
   BP: 114/64(77) {82/49(55) - 141/86(95)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 109.6 kg (admission): 89 kg
   Height: 73 Inch
             Total In:
                                                                  2,465 mL
                                                                    968 mL
   PO:
                                                                     50 mL
                                                                    720 mL
   TF:
                                                                  1,142 mL
                                                                     54 mL
   IVF:
                                                                  1,063 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  1,675 mL
                                                                    610 mL
   Urine:
                                                                  1,025 mL
                                                                    210 mL
   NG:
   Stool:
   400 mL
   Drains:
   Balance:
                                                                    790 mL
                                                                    358 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person and year only, Movement: Purposeful,
   Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   155 K/uL
   94 mg/dL
   0.6 mg/dL
   20 mEq/L
   4.0 mEq/L
   13 mg/dL
   114 mEq/L
   142 mEq/L
   27.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2198-4-19**]  04:15 AM
                             [**2198-4-19**]  05:14 PM
                             [**2198-4-20**]  03:22 AM
                             [**2198-4-20**]  02:41 PM
                             [**2198-4-21**]  05:05 AM
                             [**2198-4-21**]  03:16 PM
                             [**2198-4-22**]  03:36 AM
                             [**2198-4-23**]  03:03 AM
                             [**2198-4-23**]  10:15 PM
                             [**2198-4-24**]  12:35 AM
   WBC
   7.5
   6.6
   9.9
   9.4
   9.5
   11.1
   12.6
   12.6
   13.2
   Hct
   27.2
   27.9
   27.7
   27.3
   24.6
   25.7
   26.0
   27.5
   27.6
   Plt
   54
   47
   51
   57
   87
   90
   111
   123
   155
   Cr
   0.5
   0.6
   0.5
   0.6
   0.5
   0.6
   0.8
   0.7
   0.9
   0.6
   Glucose
   94
   90
   106
   126
   119
   107
   80
   109
   88
   94
   Other labs: PT / PTT / INR:31.5/58.9/3.2, CK / CKMB / Troponin-T:32//,
   ALT / AST:71/62, Alk Phos / T Bili:163/17.8, Amylase / Lipase:297/,
   Differential-Neuts:65.3 %, Band:0.0 %, Lymph:24.2 %, Mono:6.8 %,
   Eos:3.6 %, Fibrinogen:293 mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5
   g/dL, LDH:311 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 LIVER FUNCTION ABNORMALITIES
 HYPOTENSION (NOT SHOCK)
 ELECTROLYTE & FLUID DISORDER, OTHER
   Plan:
   1. AMS: Improving, likely hepatic encephalopathy
   -haldol prn for agitation
   -lactulose
   2. RUQ pain
   -T bili trending up
   -check repeat RUQ U/S, may have cholecystitis
   3. polymicrobial bacteremia:
   -ctx and flagyl for 14 days
   4. FEN: pos as tolerates
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2198-4-20**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt, and was present with the ICU team for the
   key portions of services provided. I would add: 44 yo male admitted
   with fulminant hepatic failure from tylenol toxicity in the context of
   suspected alcohol consumption. Course also notable for polymicrobial
   sepsis presumptively from gut translocation, obtundation/MS with acute
   respiratory failure.  Still intermittently confused, but MS has
   improved significantly over the past couple days.
   1. Acute MS: from hepatic encephalopathy
 pt improving, on lactulose
   2. Acute hepatic failure: NAC re-started due to recent worsening of
   coagulopathy with concern for decreased liver synthetic function. Liver
   team following. Underwent RUQ U/S today due to persistent abdominal
   pain
   3. Polymicrobial sepsis: has grown Citrobacter x 2, Strep anginosis,
   Vivonella from blood cultures. Source suspected to be gut
   transllocation with negative abd CT and negative CT of the leg and no
   obvious dental abscesses with dental consult- however he still needs a
   Panorex. To complete 14 day course of CTX and Flagyl.
   Tx to floor.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2198-4-24**] 16:13 ------